US07125896B2
b) 2-(Tetrahydropyran-4-yloxy)-5-bromopridine
Prepared from 2,5-dibromopyridine and tetrahydropyran-4-ol by the method of Example 10 (b).

reactant | 2,5-dibromopyridine | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | tetrahydropyran-4-ol | O1CCC(CC1)O | C5H10O2
product | 2-(Tetrahydropyran-4-yloxy)-5-bromopridine | O1CCC(CC1)OC1=NC=C(C=C1)Br | C10H12BrNO2
